US07115661B1
Ethylisothiocyanate (10 g, 0.115 moles), 7.9 g(0.086 moles) mercaptoacetic acid and 5 mL pyridine in C6H6 was refluxed, cooled and filtered yielding 3-ethylrhodanine, which was used in the next step without any further purification. Reaction of 3-ethylrodanine with piperonal in the presence of sodium acetate was performed in CH3OH under refluxing for 1 h. The yellow precipitate obtained after cooling and filtration, was washed several times with CH3OH on the filter and crystallizated from CH3OH to give 3-ethyl-5-piperilidenerodanine. 1H-NMR(DMSO-d6, 300 MHz):7.72 (s, 1H), 7.1–7.3 (m, 3H), 6.14 (s, 2H), 3.95–4.15 (q, 2H), 1.15–1.20 (t, 3H). 13C-NMR (75.48 MHz): 12.76, 40.28, 103.07, 110.21, 110.47, 120.68, 127.89, 128.07, 134.01, 149.23, 150.74, 167.57, 193.68. (2) 3-Ethyl-5-piperilidene-rodanine (1 g, 3.4 mmoles) was added to a stirred solution of 0.16 g (6.8 mmoles) in 8 mL abs. ethanol and the mixture was refluxed for 30 min. To the solution cooled to room temperature 5 mL H2O were added and the mixture was hydrolized with 10% HCl and extracted with ether. The ether phase was separated, dried (MgSO4) and evaporated to an oil. Since the investigation by TLC of the crude reaction mixture indicated the presence of piperonal, the reaction mixture was dissolved in CH2Cl2 and the obtained solution was washed with 1M NaOH. The aqueous phase was extracted twice with CH2Cl2 and then neutralized with dilute HCl. Free thiol was extracted with ethyl ether. After concentration, the product was purified by column cromatography eluating with hexane/ethyl ether:8/2. Yield 0.4 g (62.4%). 1H-NMR(CDCl3, 300 MHz):7.69 (s, 1H), 7.7.25–7.29 (d, 1H, J 1.46), 7.1–7.18 (m, 1H), 6.85–6.9 (d, 1H, J 8.13), 6.01 (s, 2H), 4.75 (s, 1H), 4.28–4.38 (q, 2H, J 7.12), 1.35–1.42 (t, 3H, J 7.13). 13C-NMR (75.48 MHz): 14.20, 62.5, 101.41, 108.37, 109.43, 121.06, 125.45, 129.20, 134.68, 147.80, 148.05, 165.43.

reactant | Ethylisothiocyanate | 0.115 moles, 10 g | C(C)N=C=S | C3H5NS
reactant | mercaptoacetic acid | 0.086 moles, 7.9 g | SCC(=O)O | C2H4O2S
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | C6H6 | C1=CC=CC=C1 | C6H6
product | 3-ethylrhodanine | C(C)N1C(SCC1=O)=S | C5H7NOS2
